US05264512
Synthesis of 4 nitro 4'cyanobiphenyl.
20 g (7.19 10-2 moles) of 4 nitro 4'bromobiphenyl, 11.6 of copper cyanide and 120 ml of DMF are placed in a 250 ml receptacle with a magnetic agitator. The mixture is refluxed for 5 h 30. It is then allowed to cool, acetone is added and the reaction medium is poured into 2 liters of water containing 2 g of ethylene diamine. A precipitate is formed. The solid is filtered out then washed in water and hexane. This raw product is redissolved in chloroform. The organic phase is dried on MgSO4, filtered and evaporated till dry. The solid obtained is recrystallized in an ethanol-chloroform mixture. This provides 13.16 g of product, yield ρ=81.7%, melting point=195° C.

reactant | nitro 4'bromobiphenyl | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)Br | C12H8BrNO2
reactant | copper cyanide | [Cu](C#N)C#N
reactant | DMF | 120 ml | CN(C)C=O | C3H7NO
reactant | ethylene diamine | C(CN)N | C2H8N2
solvent | water | 2 liters, 2 g | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | nitro 4'cyanobiphenyl | 13.16 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)C#N | C13H8N2O2
